US08420656B2
2-Chloro-5-fluoronicotinamide
At RT, 44 g (210.58 mmol) of 2,6-dichloro-5-fluoronicotinamide were added to a suspension of 21.9 g (335.35 mmol) of zinc in methanol (207 ml). Acetic acid (18.5 ml) was then added, and the mixture was heated with stirring at reflux for 24 h. The contents of the flask were then decanted from the zinc, and ethyl acetate (414 ml) and saturated aqueous sodium hydrogen carbonate solution (414 ml) were added, followed by intense extractive stirring. Subsequently the reaction mixture was filtered with suction through kieselguhr and the filter product was washed three times with ethyl acetate (517 ml each time). The organic phase was separated off and the aqueous phase was washed with ethyl acetate (258 ml). The combined organic phases were washed once with saturated aqueous sodium hydrogen carbonate solution (414 ml), dried and concentrated under reduced pressure. Dichloromethane (388 ml) was added to the crystals obtained in this manner, and the mixture was stirred for 20 min. The mixture was once more filtered off with suction, washed with diethyl ether and sucked dry.

reactant | 2,6-dichloro-5-fluoronicotinamide | 210.58 mmol, 44 g | ClC1=C(C(=O)N)C=C(C(=N1)Cl)F | C6H3Cl2FN2O
reactant | Acetic acid | 18.5 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 207 ml | CO | CH4O
catalyst | zinc | 335.35 mmol, 21.9 g | [Zn] | Zn
product | 2-Chloro-5-fluoronicotinamide | ClC1=C(C(=O)N)C=C(C=N1)F | C6H4ClFN2O
